US08193359B2
4-[(3-Furo[3,2-c]pyridin-2-yl-[1,2,4]oxadiazol-5-ylmethyl)amino]piperidine-1-carboxylic acid tert-butyl ester
Reductive alkylation of C-(3-furo[3,2-c]pyridin-2-yl-[1,2,4]oxadiazol-5-yl)-methylamine (Preparation 13) with 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, utilising a procedure similar to that described in Example 30, afforded the title compound: RT=2.15 min; m/z (ES+)=400.1 [M+H]+.

reactant | C-(3-furo[3,2-c]pyridin-2-yl-[1,2,4]oxadiazol-5-yl)-methylamine | O1C(=CC=2C=NC=CC21)C2=NOC(=N2)CN | C10H8N4O2
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
product | 4-[(3-Furo[3,2-c]pyridin-2-yl-[1,2,4]oxadiazol-5-ylmethyl)amino]piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NC(=NO1)C1=CC=2C=NC=CC2O1 | C20H25N5O4
